US07960419B2
Add hydrogen peroxide (30% by weight, 2.39 g, 70.3 mmol) to a solution of 3-amino-3-(4-methoxyphenyl)-2-methyl-thioacrylamide (7.800 g, 35.135 mmol) in methanol (703 mL). Stir 3 h. Quench the reaction with Na2S2O3 (20% in water) and evaporate to 10 mL. Dilute with EtOAc (500 mL) and wash the organic phase with brine (3×100 mL), evaporate and crystallize from EtOAc/hexane to afford 3-(4-methoxy-phenyl)-4-methylisothiazol-5-ylamine. Yield: 88.2%. ES-MS: m/e 221.0 (m+1).

reactant | hydrogen peroxide | 70.3 mmol, 2.39 g | OO | H2O2
reactant | 3-amino-3-(4-methoxyphenyl)-2-methyl-thioacrylamide | 35.135 mmol, 7.800 g | NC(=C(C(=S)N)C)C1=CC=C(C=C1)OC | C11H14N2OS
solvent | methanol | 703 mL | CO | CH4O
product | 3-(4-methoxy-phenyl)-4-methylisothiazol-5-ylamine | Yield: 88.2% | COC1=CC=C(C=C1)C1=NSC(=C1C)N | C11H12N2OS
